Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Macrolide Antibiotics / Phenergan / Doxycycline / Erythromycin 
Base / Zithromax / Tetracycline
 
Attending: ___
 
Chief Complaint:
Chest and back pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ woman with history of IVDU, MRSA tricuspid 
endocarditis (___) s/p 4-wk course of IV daptomycin now 
being admitted for transthoracic echocardiogram. Per the ED 
history, patient was arrested earlier on evening of admission 
when she was caught using heroin with her boyfriend. She was 
then incarcerated, and upon discovering that the cost of bail 
was ___, she developed chest and back pain and was transferred 
to ___ emergency room. (Speaking with patient this morning, 
she denies heroin or cocaine use; she says that she had an 
unlabeled bottle of pills that contained gabapentin and "some 
Klonopin" and that this was the cause for her incarceration - 
she says that earlier in the day she was taking Klonopin but 
otherwise denies illicits yesterday; last heroin use was 3 days 
ago.)  

In the ED, initial vitals were T 98.6, HR 88, BP 117/69, RR 12, 
satting 100%RA. Labs showed a hct of 29.8, which is unchanged 
from her recent baseline. CBC and BMP were otherwise 
unremarkable. Cardiac enzymes were negative x1 set. EKG was 
unchanged. CXR showed no acute process. ED staff noted focal 
tenderness over her right lower back and was concerned about 
septic arthritis of the sacroiliac joint versus psoas abscess. 
For this reason, patient underwent CT scan of the ___ 
that showed no evidence of acute infection (see preliminary 
report below). Blood cultures were drawn. Patient was then 
admitted for a TTE that had been previously scheduled for ___.  


Of note, patient underwent a 4-week treatment course for MRSA 
tricuspid endocarditis with IV daptomycin that ended in mid ___. 
Previously, she had been evaluated by thoracic surgery as there 
was concern about tricuspid vegetations and ASD (both seen on 
her TEE), and the risk for paradoxical embolism. Thoracics had 
recommended for TTE in four weeks to re-evaluate valves (see 
note from ___. The original follow-up TTE had been scheduled 
for ___, and as it turned out patient had been re-admitted to 
___ again on ___ for somnolence in the setting of urine 
tox positive for cocaine and opioids. During that admission, 
after she cleared from what was thought to be drug-related 
somnolence, patient insisted on leaving the hospital and refused 
to have the TTE done. She ended up leaving AMA.  

Patient is now being admitted to have the follow-up TTE done. 
Emergency room staff has confirmed that she is willing to 
undergo the study during this admission.  

Review of Systems: currently, patient complains of right lower 
back pain. Her chest pain, which she attributes to stress, has 
resolved.
 
Past Medical History:
- h/o MRSA tricuspid endocarditis s/p 4-weeks daptomycin 
(___)  
- atrial septal defect (small)  
- untreated hepatitis C  
- asthma  
- ?Bipolar disorder - per pt, recent diagnosis of Shattack  
- ongoing IV heroin use and cocaine use  
 
Social History:
___
Family History:
No history of cardiac problems.
 
Physical Exam:
Vitals: Afebrile, normotensive, HR ___, satting high ___ on RA  
General: Young well-appearing woman, tearful, in no acute 
distress  
Heart: RRR, normal s1/s2, no murmurs  
Lungs: CTAB
Abdomen: Soft, nontender, nondistended, BS+
Back: no supraspinal tenderness, masses, warmth or erythema; 
mild ttp over the right iliac crest without skin changes, warmth 
or masses  
Neurological: patient able to walk without need for support; no 
ataxia, no significant limp  
 
Pertinent Results:
Admission labs:
___ 01:45AM   WBC-8.1 RBC-3.48* HGB-9.7* HCT-29.8* MCV-86 
MCH-28.0 MCHC-32.7 RDW-14.9
___ 01:45AM   NEUTS-45.4* LYMPHS-47.9* MONOS-3.6 EOS-2.5 
BASOS-0.6
___ 01:45AM   PLT COUNT-513*#
___ 02:10AM   ASA-NEG ACETMNPHN-NEG bnzodzpn-NEG 
barbitrt-NEG tricyclic-NEG
___ 02:10AM   HCG-LESS THAN 
___ 02:10AM   cTropnT-<0.01
___ 02:10AM   GLUCOSE-80 UREA N-15 CREAT-0.7 SODIUM-144 
POTASSIUM-3.5 CHLORIDE-107 TOTAL CO2-26 ANION GAP-15

Studies:

___: CT Abdomen/Pelvis: 
1. Cavitary nodule at the right lung base in keeping with 
patient's history of septic emboli. 
2. Cystic structure in the pelvis measuring 5 cm similar to 
prior could be a paraovarian cyst; however cannot exclude 
endometrioma since no change in size about two months. Pelvic 
ultrasound is recommended to evaluate this finding further. 
Small amount of free fluid in the pelvis. D/w Dr. ___ at 
10:13 am on ___. 
3. Hypodensity at the cervix, could be a Garthner's cyst. 
4. Hypodensities in the right kidney too small to be 
characterized, likely 
simple cysts. 
5. Small hypodensity at L1-L2 on the right could be a small 
perineural cyst. 

___: CXR: 1. Stable blunting of the right costophrenic 
angle, likely scarring, with minimal blunting of the left 
costophrenic angle. 
2. Opacity at the right lung base corresponds to the small 
cavitation seen on CT abdomen and pelvis from the same night. 

 
Brief Hospital Course:
___ year old female with history of polysubstance abuse, recent 
MRSA endocarditis s/p 4 weeks of daptomycin, who presented with 
chest and back pain in the setting of incarceration for IV drug 
possession.  She left against medical advice.

#. History of recent tricuspid endocarditis: She is status-post 
a 4-week course of daptomycin, observed at the ___.  She 
was admitted for repeat TTE, as she was scheduled for a repeat 
TTE a few weeks ago and missed her appointment.  However, she 
was admitted on a weekend and refused to wait until ___ when 
TTE could be performed.  She therefore left against medical 
advice.

#. Back pain and chest pain: She had developed chest pain and 
back pain in the setting of being handcuffed and riding in the 
police car. ECG and CXR were unremarkable for acute process.  
Her chest pain completely resolved.  She continued to complain 
of right-sided lower back pain that she reports had been chronic 
for a few months and exacerbated by a MVA last week.  She denied 
any recent fevers, weakness, saddle anesthesia, or bowel or 
bladder incontinence.  She was treated with prn Tylenol and 
Motrin.
 
#. Ongoing polysubstance abuse:  She presented in the setting of 
an arrest for IV drug possession.   She would likely benefit 
from methadone maintenance therapy and it was ensured that she 
had the contact information for a clinic prior to her leaving 
against medical advice.

#. Paraaortic cystic mass: She had a CT abdomen/pelvis in the ED 
which showed a 5cm  cystic structure in her pelvis similar to 
prior imaging.  It was felt that endometrioma could not be 
excluded and pelvic ultrasound was recommended.  She left 
against medical advice before pelvic ultrasound was obtained.
 
Medications on Admission:
Per ___ discharge summary from ___:  
- clonidine 0.1mg bid  
- daptomycin (course completed)  
- dicyclomine 20mg tid  
- ibuprofen 400-800 q8h prn  
- morphine 15mg q6h prn  
- nystatin 100,000unit/g topical cream bid  
- omeprazole 20mg qday  
- zolpidem 5mg qhs prn  
(Note: patient denies taking most of these medications but left 
against medical advice prior to full medication reconciliation)
 
Discharge Medications:
LEFT AGAINST MEDICAL ADVICE
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
History of MRSA endocarditis
Polysubstance abuse
Untreated hepatitis C
Asthma
 
Discharge Condition:
Afebrile, other vital signs stable
 
Discharge Instructions:
LEFT AGAINST MEDICAL ADVICE
 
Followup Instructions:
___